US06468998B1
9-Xanthenylcarboxylic acid and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-9-xanthenylcarboxamide.

reactant | 9-Xanthenylcarboxylic acid | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-9-xanthenylcarboxamide | FC1=CC=C(C=C1)CCN1C[C@H](CC1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C26H25FN2O2
